US09228120B2
Additionally, for example when mixing 1,3-dihexyltetramethyldisilazane as the silicon compound B and trifluoromethanesulfonic anhydride as the acid B, the trifluoromethanesulfonic anhydride is rapidly reacted to form hexyldimethylsilyl trifluoromethanesulfonate as the acid A.

reactant | 1,3-dihexyltetramethyldisilazane | C(CCCCC)[Si](N[Si](CCCCCC)(C)C)(C)C | C16H39NSi2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | hexyldimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)CCCCCC)(F)F | C9H19F3O3SSi
